US08604019B2
Step 1. Preparation of tert-Butyl{[3-(dibenzylamino)oxetan-3-yl]methyl}carbamate
To a solution of 3-(aminomethyl)-N,N-dibenzyloxetan-3-amine (10.0 g, 33.97 mmol) in tetrahydrofuran (100 mL) was added an aqueous solution of sodium bicarbonate (8.6 g, 101.9 mmol dissolved in 50 mL of water) and a solution of di-tert-butyl dicarbonate (8.9 g, 40.76 mmol) in tetrahydrofuran (30 mL). The mixture was stirred at room temperature overnight, then concentrated in vacuo to remove most of the organic solvent, and the aqueous residue was extracted with dichloromethane (100 mL×3). The organic layers were combined, washed with brine (150 mL), dried over anhydrous sodium sulfate and concentrated in vacuo to afford 13.0 g of the crude product, which was used for the next step without any purification.

reactant | 3-(aminomethyl)-N,N-dibenzyloxetan-3-amine | 33.97 mmol, 10.0 g | NCC1(COC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C18H22N2O
reactant | sodium bicarbonate | 101.9 mmol, 50 mL, 8.6 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 40.76 mmol, 8.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | tert-Butyl{[3-(dibenzylamino)oxetan-3-yl]methyl}carbamate | 13.0 g | C(C)(C)(C)OC(NCC1(COC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H30N2O3
